### PR TITLE
integral of constant function

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

Minor generalization that was useful when dealing with probabilities
(this is essentially Markov's lemma).

@t6s @hoheinzollern 

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- [ ] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

**Comment by affeldt-aist** [comment]
I changed `ltey` to `ltry` to indicate the argument is not infinity, the fact that it is about extended reals is clear thanks to the `y`, `ltey` is now a bit more general lemma whose argument "is" an extended real, that seems better named and I found the latter lemma is occasionally useful.

File: theories/constructive_ereal.v [hunk 1]
```diff
@@ -307,8 +310,8 @@ move: x y => [x||] [y||] //; rewrite /Order.comparable !lee_fin -!realE.
 - by rewrite /lee/= => _ ->.
 Qed.
 
-Lemma real_ltey r : r%:E < +oo = (r \is Num.real). Proof. by []. Qed.
-Lemma real_ltNye r : -oo < r%:E = (r \is Num.real). Proof. by []. Qed.
+Lemma real_ltry r : r%:E < +oo = (r \is Num.real). Proof. by []. Qed.
+Lemma real_ltNyr r : -oo < r%:E = (r \is Num.real). Proof. by []. Qed.
```
Comment (CohenCyril) [inline theories/constructive_ereal.v:314]: I do not understand this renaming.

File: theories/constructive_ereal.v [hunk 2]
```diff
@@ -330,9 +333,15 @@ Section ERealOrder_realDomainType.
 Context {R : realDomainType}.
 Implicit Types (x y : \bar R) (r : R).
 
-Lemma ltey r : r%:E < +oo. Proof. exact: num_real. Qed.
+Lemma ltry r : r%:E < +oo. Proof. exact: num_real. Qed.
+
+Lemma ltey x : x != +oo -> x < +oo.
```
Comment (CohenCyril) [inline theories/constructive_ereal.v:338]:
```suggestion
Lemma ltey x : (x < +oo) = (x != +oo).
```

File: theories/constructive_ereal.v [hunk 3]
```diff
@@ -330,9 +333,15 @@ Section ERealOrder_realDomainType.
...
+Proof. by case: x => // r _; rewrite ltry. Qed.
+
+Lemma ltNyr r : -oo < r%:E. Proof. exact: num_real. Qed.
 
-Lemma ltNye r : -oo < r%:E. Proof. exact: num_real. Qed.
+Lemma ltNye x : x != -oo -> -oo < x.
```
Comment (CohenCyril) [inline theories/constructive_ereal.v:343]:
```suggestion
Lemma ltNye x : (-oo < x) = (x != -oo).
```

File: theories/lebesgue_integral.v [hunk 4]
```diff
@@ -2370,34 +2368,34 @@ End integralN.
...
 - by move=> y [t _ <-] /=; rewrite /patch; case: ifPn; [right|left].
 - by move=> y [_ /=/preimage10->]; rewrite measure0 mule0.
-have [->|x0] := eqVneq x%:num 0%R; first by rewrite setUid fsbig_set1 !mul0e.
-rewrite fsbigU0//=; last by move=> y [->]/esym; apply/eqP.
-rewrite !fsbig_set1 mul0e add0e preimage_restrict//.
-by rewrite ifN ?set0U ?setIidl//= notin_set; apply/eqP; rewrite eq_sym.
 Qed.
 
-Lemma integral_cst (r : R) : \int[mu]_(x in D) (EFin \o cst r) x = r%:E * mu D.
+Lemma integral_EFin_cst r : \int[mu]_(x in D) (EFin \o cst r) x = r%:E * mu D.
```
Comment (CohenCyril) [inline theories/lebesgue_integral.v:2387]: Variable binding allows us to write this instead:
```suggestion
Lemma integral_EFin_cst r : \int[mu]_(x in D) r%:E = r%:E * mu D.
```

File: theories/lebesgue_integral.v [hunk 5]
```diff
@@ -3694,6 +3682,45 @@ by apply: ge0_ae_eq_integral => //; [exact: emeasurable_fun_funeneg|
 Qed.
 
 End ae_eq_integral.
+Arguments ae_eq_integral {d T R mu D} g.
+
+Local Open Scope ereal_scope.
+Lemma integral_cst d (T : measurableType d) (R : realType)
+    (mu : {measure set T -> \bar R}) (D : set T) : d.-measurable D ->
+  forall r, \int[mu]_(x in D) (cst r) x = r * mu D.
```
Comment (CohenCyril) [inline theories/lebesgue_integral.v:3690]: Am I write this subsumes `integral_cstr`, `integral_csty` and `integral_cstNy`?
If so please remove them or mark and make them unaccessible from Search and outside this file.

**Review by CohenCyril — APPROVED** [review]
